US06743926B2
(E)-3-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-acrylic Acid
2 g (6.02 mmol) of 2-bromo-3-(4-fluorophenyl)-1-isopropyl-1H-indole, 10 ml of DMF and 0.5 ml of water are introduced into a 50 ml three-necked, round-bottomed flask, which has been purged with nitrogen and is equipped with a magnetic stirrer, thermometer, reflux condenser, gas inlet tube and nitrogen delivery line, and degassing is carried out for 30 min. by introducing nitrogen. 24 mg (1.0 mol %) of the catalyst K4 from WO-A-99/47474 and 2.15 g (6.6 mmol) of caesium carbonate are then added and degassing is carried out for a further 1 hour. 1.0 g (13.8 mmol) of acrylic acid are subsequently added and the suspension is heated at reflux for 2 hours. The DMF is then distilled off, the residue is cooled, 10 ml of 1N hydrochloric acid are added and the aqueous phase is extracted three times with 50 ml of ethyl acetate. The combined organic phases are washed three times with 30 ml of saturated sodium carbonate solution, slightly acidified again using 1N hydrochloric acid, and washed three times with 50 ml of saturated sodium chloride solution in order to render neutral. Drying over magnesium sulfate, filtration and concentration by evaporation are then carried out. The residue (1.83 g) is dissolved in THF, 5 g of silica gel are added and the solution is concentrated by evaporation using a rotary evaporator. The charged silica gel is transferred into a glass frit, and non-polar secondary products are eluted using hexane/ethyl acetate=10:1 and then the product is eluted using ethyl acetate. Concentration by evaporation yields a yellow solid which, according to NMR, is the desired product in pure form.

reactant | 2-bromo-3-(4-fluorophenyl)-1-isopropyl-1H-indole | 6.02 mmol, 2 g | BrC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C | C17H15BrFN
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | caesium carbonate | 6.6 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acrylic acid | 13.8 mmol, 1.0 g | C(C=C)(=O)O | C3H4O2
solvent | water | 0.5 ml | O | H2O
product | (E)-3-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-acrylic Acid | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/C(=O)O | C20H18FNO2
